US04816464
A. 8-(4-Pentenyl)-1,4-dioxa-8-azaspiro[4.5]decane
To a mixture of 15 g (0.105 mol) of 1,4-dioxa-8-azaspiro[4.5]decane, 15.93 g (0.115 mol) of K2CO3, and 100 ml of acetonitrile is added dropwise 14.41 ml (0.105 mol) of 5-bromopentene. The mixture is stirred overnight at room temperature and then at 65° C. for 2 hours. After cooling, the mixture is diluted with water and extracted with methylene chloride. The combined extracts are washed with brine, dried over Na2SO4, and concentrated in vacuo to furnish 18.62 g (84%) of title compound as an oil: IR (neat) 2940 and 1090 cm-1 ; NMR (CDCl3) δ5.84 (m, 1H), 5.02 (m, 2H), 3.96 (s, 4H), 2.70-1.40 (m, 14H).

reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 0.105 mol, 15 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | K2CO3 | 0.115 mol, 15.93 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | 5-bromopentene | 0.105 mol, 14.41 ml | BrCCCC=C | C5H9Br
solvent | water | O | H2O
product | 8-(4-Pentenyl)-1,4-dioxa-8-azaspiro[4.5]decane | 18.62 g, 84% | C(CCC=C)N1CCC2(OCCO2)CC1 | C12H21NO2
